US07279481B2
1-(3-Acetylphenyl)-2-pyrrolidinone (D9)
The title compound was prepared in 98% yield according to the general procedure for the preparation of the amides, ureas and carbamates (Method A) starting from 1-(3-bromophenyl)ethanone and 2-pyrrolidinone.

reactant | 1-(3-bromophenyl)ethanone | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
product | 1-(3-Acetylphenyl)-2-pyrrolidinone | 98% yield | C(C)(=O)C=1C=C(C=CC1)N1C(CCC1)=O | C12H13NO2
